US04499299
b. 3-Methoxy-4-methylbenzaldehyde
A mixture of 5.0 g (27.08 mmol) of 3-methoxy-4-methylbenzoyl chloride, 4.0 ml (34.34 mmol) of 2,6-lutidine and 400 mg of 10% palladium on carbon in 40 ml of THF was rapidly stirred under an atmosphere of hydrogen until no more hydrogen was taken up. Filtration and extraction with ethyl acetate gave title compound as a light yellow oil.

reactant | 3-methoxy-4-methylbenzoyl chloride | 27.08 mmol, 5.0 g | COC=1C=C(C(=O)Cl)C=CC1C | C9H9ClO2
reactant | 2,6-lutidine | 34.34 mmol, 4.0 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 400 mg | [Pd] | Pd
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 3-Methoxy-4-methylbenzaldehyde | COC=1C=C(C=O)C=CC1C | C9H10O2
